US04258045
75 Grams (0.5 mole) of crude 3-benzyloxy-4-methoxy-β-cyano-N-phenylcinnamylamine is added to a suspension made by stirring 40 g (0.42 mole) of guanidine hydrochloride with 27.5 g (0.51 mole) of sodium methoxide in 320 ml of ethanol. The reaction mixture is stirred and heated at reflux for 1.5 hr., after which the mixture becomes quite thick. An additional 320 ml of ethanol is added, and the refluxing is continued for a total of 20 hr. Most of the ethanol is removed by vacuum distillation, the resulting residue is stirred with 1500 ml of water and washed well with water. The crude moist product is digested with 250 ml of hot ethanol, cooled, filtered, and washed with ethanol and with water to yield 55 g (81%) of 2,4-diamino-5-(3-benzyloxy-4-methoxybenzyl)pyrimidine, m.p. 210°-212°.

reactant | 3-benzyloxy-4-methoxy-β-cyano-N-phenylcinnamylamine | 0.5 mole | C(C1=CC=CC=C1)OC=1C=C(C(=CCNC2=CC=CC=C2)C#N)C=CC1OC | C24H22N2O2
reactant | guanidine hydrochloride | 0.42 mole, 40 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.51 mole, 27.5 g | C[O-].[Na+]
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | ethanol | 320 ml | C(C)O | C2H6O
product | 2,4-diamino-5-(3-benzyloxy-4-methoxybenzyl)pyrimidine | 55 g, 81% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C19H20N4O2
